US04223136
To 17 parts of sodium hydride in 1500 parts of tetrahydrofuran at room temperature under nitrogen is added, portionwise with stirring during approximately 15 minutes, 90 parts of 2H-1,4-benzothiazine-3(4H)-thione [J. Med. Chem. 12, 290 (1969)]. After the addition is complete, stirring under nitrogen is continued for 10 minutes, whereupon a solution of 85 parts of iodomethane in 70 parts of tetrahydrofuran is rapidly stirred in and stirring continued thereafter for a still further 15 minutes. Removal of solvent by vacuum distillation under nitrogen affords 3-methylthio-2H-1,4-benzothiazine as the residue. Since the product is subject to spontaneous hydrolytic decomposition, it is not usually isolated for the purposes of this invention but instead is employed as the solution in tetrahydrofuran preparable via the foregoing procedure.

reactant | sodium hydride | [H-].[Na+]
reactant | 2H-1,4-benzothiazine-3(4H)-thione | S1CC(NC2=C1C=CC=C2)=S | C8H7NS2
reactant | iodomethane | IC | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-methylthio-2H-1,4-benzothiazine | CSC=1CSC2=C(N1)C=CC=C2 | C9H9NS2
